### PR TITLE
Add Erdős Problem 1213 (Hegyvári's theorem on equal interval sums), link the formal proof

### LINKED ISSUE #6221: Erdős Problem 1213
### What is the Erdős problem?

https://www.erdosproblems.com/1213

Let $a,K\geq 1$. Does there exist $f(a,K)$ such that if $a=a_1<\cdots <a_s$ is a sequence of integers with $a_s> f(a,K)$ and with bounded gaps $a_{i+1}-a_i\leq K$ then there are two distinct intervals $I$ and $J$ such that $\sum_{i\in I}a_i=\sum_{j\in J}a_j$?

Status: proved (Hegyvári, with $f(a,K) \ll a e^{O(K)}$). A formal proof exists in plby/lean-proofs (`Erdos1213.erdos_1213`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6221.

### What changed
Adds `FormalConjectures/ErdosProblems/1213.lean` with `HasEqualIntervalSums A s` (two distinct nonempty index intervals of `A 0, …, A (s-1)` with equal sums) and:
- `erdos_1213` (`research solved`, `answer(True)`): for all `a, K ≥ 1` there is `f` such that every strictly increasing sequence starting at `a` with gaps `≤ K` and last term `> f` has two distinct intervals with equal sums (Hegyvári [He86]). Linked to plby/lean-proofs `Erdos1213.erdos_1213` (Codex and GPT-5.6 Sol; single Mathlib-only file).
- `erdos_1213.variants.hegyvari`: Hegyvári's explicit bound `f(a, K) ≪ a e^{O(K)}`.

### How checked
- Rebuilt plby's file against this repo's Mathlib: `#print axioms Erdos1213.erdos_1213` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms:

<details>
<summary>Bridge</summary>

```lean
theorem erdos_1213_bridge : type_of% Erdos1213.erdos_1213 := by
  show True ↔ _
  simp only [true_iff]
  intro a K ha hK
  obtain ⟨f, hf⟩ := Erdos1213Plby.erdos_1213 a K ha hK
  refine ⟨f, fun s A hs hA0 hmono hgap hlast => ?_⟩
  obtain ⟨u, v, x, y, huv, hv, hxy, hy, hne, hsum⟩ :=
    hf s A hs hA0 (fun i j hij hj => hmono (by simp; omega) hj hij) (fun i hi => hgap i hi) hlast
  exact ⟨u, v, x, y, huv, hv, hxy, hy, hne, hsum⟩
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«1213»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/1213.lean [hunk 1]
```diff
@@ -0,0 +1,67 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1213.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
